US04336378
A mixture of 20.6 ml. (0.24 mole) 37% aqueous formaldehyde, 18 ml. (0.12 mole) 40% aqueous dimethylamine and 80 ml. acetic acid is cooled to 0° and treated by the dropwise addition of 25.5 g. (0.113 mole) 2-(3-ethyl-5-methyl-4-isoxazolyl)-indole in a solution of 45 ml. acetic acid and 125 ml. dioxane. After addition is complete the mixture is stirred for 1 hour at room temperature and poured onto 500 ml. ice-water. The resulting solution is made basic with 20% potassium hydroxide and then extracted with methylene chloride. The methylene chloride is washed with water, brine, dried over anhydrous magnesium sulfate, filtered and evaporated to give a gum that crystallizes to give 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-(dimethylaminomethyl)indole; m.p. 88° to 90° C.

reactant | formaldehyde | 0.24 mole | C=O | CH2O
reactant | dimethylamine | 0.12 mole | CNC | C2H7N
reactant | 2-(3-ethyl-5-methyl-4-isoxazolyl)-indole | 0.113 mole | C(C)C1=NOC(=C1C=1NC2=CC=CC=C2C1)C | C14H14N2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-(dimethylaminomethyl)indole | C(C)C1=NOC(=C1C=1NC2=CC=CC=C2C1CN(C)C)C | C17H21N3O
